* Z:\mnt\design.r\spice\examples\1111-5.asc
L1 IN N001 22µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS140
C2 OUT 0 33µ Rser=0.02
V1 IN 0 3
XU1 IN IN N001 0 0 N002 N003 OUT LT1111 top=220K bot=73.5K
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1111.sub
.backanno
.end
